US05612377
Under a nitrogen atmosphere, a flask was charged with sodium hydride (1.15 g 60% NaH in mineral oil, 29 mmol). Residual oil was washed from the sodium hydride using several portions of hexanes. N,N-Dimethylformamide (50 mL) was added followed by the dropwise addition of a solution of 1-benzyloxy-3-phenylurea (7.0 g, 29 mmol) in N,N-dimethylformamide (20 mL). Hydrogen evolution occurred immediately. The reaction was stirred for 0.5 hr then 3-bromopentane (4.0 mL, 32 mmol) was added dropwise. The reaction mixture was heated at 60° C. for 15 hours then allowed to cool to room temperature. The reaction was quenched with water then extracted with several portions of diethyl ether. The ether extracts were combined, washed with water and brine, dried over magnesium sulfate and then concentrated to provide 8.7 g of crude product as a pale yellow solid. The crude product was purified by flash chromatography (silica gel; 9:1 hexanes:ethyl acetate)to provide 5.7 g of 1-benzyloxy-1-(1-ethylpropyl)-3-phenylurea as a white solid, m.p. 45.0°-45.6° C.

reactant | sodium hydride | 29 mmol, 1.15 g | [H-].[Na+]
reactant | 1-benzyloxy-3-phenylurea | 29 mmol, 7.0 g | C(C1=CC=CC=C1)ONC(=O)NC1=CC=CC=C1 | C14H14N2O2
reactant | Hydrogen | [H][H] | H2
reactant | 3-bromopentane | 32 mmol, 4.0 mL | BrC(CC)CC | C5H11Br
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 1-benzyloxy-1-(1-ethylpropyl)-3-phenylurea | 5.7 g | C(C1=CC=CC=C1)ON(C(=O)NC1=CC=CC=C1)C(CC)CC | C19H24N2O2
